US07265149B2
In analogy to the procedure described for example 2 e], 5-(tert-butyl-dimethyl-silanyloxymethyl)-1,4-dimethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole was treated with tetrabutylammonium fluoride in THF to yield [2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol as yellow oil.

reactant | 5-(tert-butyl-dimethyl-silanyloxymethyl)-1,4-dimethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | C(C)(C)(C)[SiH2]OC(C1=C(C(=NN1C)C1=CC=C(C=C1)C(F)(F)F)C)(C)C | C19H27F3N2OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | [2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | CN1N=C(C(=C1CO)C)C1=CC=C(C=C1)C(F)(F)F | C13H13F3N2O
